US04276417
5.0 g. of 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one are suspended in 100 ml. of methylene chloride and 10 ml. of triethylamine. 2.5 g. of methoxyacetyl chloride in 20 ml. of methylene chloride are added dropwise while stirring and cooling to about 5° C. After 1 hour at about 5° C., the mixture is treated with water and adjusted to pH 4 with 3-N hydrochloric acid. The two phases are separated and the aqueous phase is extracted with methylene chloride. The combined organic extracts are dried over sodium sulfate and evaporated under reduced pressure. The residue is recrystallized from methylene chloride and diethyl ether, there being obtained N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-2-methoxyacetamide having a melting point of 135°-136° C.

reactant | 7-amino-5-diallylamino-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-2-one | NC1=NC(=NC=2N1OC(N2)=O)N(CC=C)CC=C | C10H12N6O2
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-{5-diallylamino-2-oxo-2H-[1,2,4]oxadiazolo[2,3-a]-s-triazin-7-yl}-2-methoxyacetamide | C(C=C)N(C1=NC=2N(C(=N1)NC(COC)=O)OC(N2)=O)CC=C | C13H16N6O4
